US05371077
To a solution of 3β-acetoxy-23ξ-iodo-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en-15-one (310 mg; 0.446 mmol) and 2,2'-azobisisobutyronitrile (10 mg) in tetrahydrofuran (4 ml) was added tributyltin hydride (0.15 ml; 0.603 mmol) under argon. After 5 h, water (20 ml) was added and the resulting mixture was extracted twice with ether (10 ml portions). The ether solution was washed with water, dried over anhydrous sodium sulfate, and evaporated to dryness. The residue (300 mg) was subjected to chromatography on a silica gel (6 g) column. Using 4% ethyl acetate in hexane as the eluting solvent, fractions 8 ml in volume were collected. The contents of fractions 20-56 were pooled (227 mg) and recrystallized from methanol to give 3β-acetoxy-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en-15-one (211 mg; 83% yield); MP 187°-188° C. The product showed a single component on TLC in one solvent system (35% ether in hexane, Rf 0.45) and one major (~ 98%) component (Rf 0.45) and a minor component (Rf 0.485) in another solvent system (15% ethyl acetate in hexane). The structure was confirmed by I.R., N.M.R., and M.S. analyses.

reactant | 3β-acetoxy-23ξ-iodo-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en-15-one | 0.446 mmol, 310 mg | C(C)(=O)O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CC(CC(C(F)(F)F)(C(F)(F)F)F)I)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H38F7IO3
reactant | 2,2'-azobisisobutyronitrile | 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tributyltin hydride | 0.603 mmol, 0.15 ml | C(CCC)[SnH](CCCC)CCCC
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 3β-acetoxy-25,26,26,26,27,27,27-heptafluoro-5α-cholest-8(14)-en-15-one | 211 mg, 83% yield | C(C)(=O)O[C@@H]1C[C@@H]2CCC3=C4C(C[C@H]([C@@H](CCCC(C(F)(F)F)(C(F)(F)F)F)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H39F7O3
